US04886835
The procedure is as in Example 2 for the preparation of diethyl 2-dimethylamino-5-phenylthio-2,4-hexadienedioate, starting with N(3-dimethylamino-3-t-butyloxycarbonylpropenylidene)-N-methylmethanaminium tetrafluoroborate (4.05 g), a 1.6M solution (8.8 cc) of butyllithium in hexane and ethyl (phenylthio)acetate (2.8 g) in tetrahydrofuran (65 cc). After purification by chromatography on a silica column with a mixture of cyclohexane and ethyl acetate (70:30 by volume) as eluent, 6-ethyl 1-tert-butyl 2-dimethylamino-5-phenylthio-2,4-hexadienedioate (2.6 g), m.p. 85°-88° C., is obtained.

reactant | diethyl 2-dimethylamino-5-phenylthio-2,4-hexadienedioate | CN(C(C(=S)OCC)=CC=C(C(=O)OCC)C1=CC=CC=C1)C | C18H23NO3S
reactant | N(3-dimethylamino-3-t-butyloxycarbonylpropenylidene)-N-methylmethanaminium tetrafluoroborate | 4.05 g | F[B-](F)(F)F.CN(C(=CC=[N+](C)C)C(=O)OC(C)(C)C)C
reactant | butyllithium | C(CCC)[Li]
reactant | ethyl (phenylthio)acetate | 2.8 g | C1(=CC=CC=C1)SCC(=O)OCC | C10H12O2S
solvent | hexane | CCCCCC | C6H14
solvent | tetrahydrofuran | 65 cc | O1CCCC1 | C4H8O
product | 6-ethyl 1-tert-butyl 2-dimethylamino-5-phenylthio-2,4-hexadienedioate | 2.6 g | CN(C(C(=S)OC(C)(C)C)=CC=C(C(=O)OCC)C1=CC=CC=C1)C | C20H27NO3S
